US08648066B2
6-Chloro-N-(4-methoxyphenyl)-5-methylpyrimidin-4-amine.
Synthesized according to the method of reagent preparation 49 using 6-chloro-5-methylpyrimidin-4-ol and 4-methoxyaniline in step 1.

reactant | 6-chloro-5-methylpyrimidin-4-ol | ClC1=C(C(=NC=N1)O)C | C5H5ClN2O
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | 6-Chloro-N-(4-methoxyphenyl)-5-methylpyrimidin-4-amine | ClC1=C(C(=NC=N1)NC1=CC=C(C=C1)OC)C | C12H12ClN3O
